US06342765B1
A solution of 2-(4-fluorophenethyl)-5-hydroxybenzoic acid (30 g, 115.4 mmol) in methanol (900 ml) and the stirred solution treated dropwise with sulphuryl chloride (1.6 ml, 19.6 mmol) stirred and heated at reflux for 16 hours. The mixture was evaporated to dryness, the residue dissolved in ethyl acetate (500 ml), washed with saturated aqueous NaHCO3 (×2), water and brine. After drying (MgSO4) the solution was evaporated to dryness to give a brown oil which when triturated with iso-hexane gave methyl 2-(4-fluorophenethyl)-5-hydroxybenzoate (21.02 g, 66%).

reactant | 2-(4-fluorophenethyl)-5-hydroxybenzoic acid | 115.4 mmol, 30 g | FC1=CC=C(CCC2=C(C(=O)O)C=C(C=C2)O)C=C1 | C15H13FO3
reactant | sulphuryl chloride | 19.6 mmol, 1.6 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | methanol | 900 ml | CO | CH4O
product | methyl 2-(4-fluorophenethyl)-5-hydroxybenzoate | 21.02 g, 66% | FC1=CC=C(CCC2=C(C(=O)OC)C=C(C=C2)O)C=C1 | C16H15FO3
